US05436267
180 ml of ethanol were added to a solution of 22 g of 2-cyano-5-trifluoromethylpyridine in 180 ml of 1,2-dichloroethane under stirring at room temperature, followed by drop-wise addition thereto of a solution of 9.8 g of hydroxylamine hydrochloride in 17 ml of water. An aqueous solution of 5.6 g of sodium hydroxide in 17 ml of water was drop-wise added to the resulting mixture. After completion of the drop-wise addition, the reaction mixture was heated at 80° C. for 2 hours. The reaction mixture was cooled, and stripped of insolubles by filtration. The filtrate was subjected to distillation under reduced pressure to remove therefrom the solvent. The resulting residue was washed with hexane. The precipitated solid was filtered off to obtain 25 g of 5-trifluoromethyl-2-pyridinecarboxamide oxime having a melting point of 130° to 133° C.

reactant | ethanol | 180 ml | C(C)O | C2H6O
reactant | 2-cyano-5-trifluoromethylpyridine | 22 g | C(#N)C1=NC=C(C=C1)C(F)(F)F | C7H3F3N2
reactant | hydroxylamine hydrochloride | 9.8 g | Cl.NO
reactant | sodium hydroxide | 5.6 g | [OH-].[Na+]
solvent | 1,2-dichloroethane | 180 ml | ClCCCl | C2H4Cl2
solvent | water | 17 ml | O | H2O
solvent | water | 17 ml | O | H2O
product | 5-trifluoromethyl-2-pyridinecarboxamide oxime | 25 g | FC(C=1C=CC(=NC1)C(N)=NO)(F)F | C7H6F3N3O
